US07829563B2
1-(3,4-Dimethoxy-phenyl)-prop-2-en-1-ol
To a solution of 3,4-dimethoxybenzaldehyde (5.30 g, 31.9 mmol) in THF (50 mL) was added dropwise under a nitrogen atmosphere at 0° C. over a period of 30 min vinylmagnesium bromide (1 M in THF, 32 mL, 32 mmol) and stirred for 2 h at 0° C. followed by 1 h at ambient temperature. Further vinylmagnesium bromide (1 M in THF, 32 mL, 32 mmol) was added at 0° C. and the solution was stirred for 1 h at this temperature. The reaction mixture was added onto a mixture of ice (50 g) and aqueous ammonium chloride (saturated, 50 mL). The mixture was extracted with tert-butylmethylether and the organic layers were washed with water (50 mL) and brine (50 mL). Drying over sodium sulfate und purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (5.18 g, 84%) as a light yellow oil.

reactant | 3,4-dimethoxybenzaldehyde | 31.9 mmol, 5.30 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | vinylmagnesium bromide | 32 mmol, 1 M, 32 mL | C(=C)[Mg]Br
reactant | vinylmagnesium bromide | 32 mmol, 1 M, 32 mL | C(=C)[Mg]Br
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(3,4-Dimethoxy-phenyl)-prop-2-en-1-ol | 5.18 g, 84% | COC=1C=C(C=CC1OC)C(C=C)O | C11H14O3
